US07893069B2
A mixture of 235 mg (0.66 mmol) 6-(5-bromothiazole-2-yl)-N-tert-butylimidazo[2,1-b]thiazole-5-amine, 22 mg (0.033 mmol) bis(triphenylphosphine)-palladium-(II)-chloride, 12 mg (0.066 mmol) copper-(I)-iodide, 80 μl (0.79 mmol) 2-ethynylpyridine and 731 μl (5.28 mmol) NEt3 in DMF (2 ml) was heated in the microwave (Biotage Initiator) for 10 min to 120° C. The reaction solution was diluted with water and extracted several times with AE. The collected organic phases were washed with brine and dried over MgSO4. After filtering and removal of the solvent in a vacuum, a CC (1.TBME, 2.MeOH) was performed with the residue, whereby 43 mg (0.11 mmol, 17%) N-tert-butyl-6-(5-(pyridine-2-ylethynyl)thiazole-2-yl)imidazo[2,1-b]thiazole-5-amine was obtained.

reactant | 6-(5-bromothiazole-2-yl)-N-tert-butylimidazo[2,1-b]thiazole-5-amine | 0.66 mmol, 235 mg | BrC1=CN=C(S1)C=1N=C2SC=CN2C1NC(C)(C)C | C12H13BrN4S2
reactant | 2-ethynylpyridine | 0.79 mmol, 80 μl | C(#C)C1=NC=CC=C1 | C7H5N
reactant | NEt3 | 5.28 mmol, 731 μl | CCN(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)-palladium-(II)-chloride | 0.033 mmol, 22 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper-(I)-iodide | 0.066 mmol, 12 mg | [Cu]I
product | N-tert-butyl-6-(5-(pyridine-2-ylethynyl)thiazole-2-yl)imidazo[2,1-b]thiazole-5-amine | 0.11 mmol, 43 mg, 17% | C(C)(C)(C)NC1=C(N=C2SC=CN21)C=2SC(=CN2)C#CC2=NC=CC=C2 | C19H17N5S2
